US04582839
60% Oil-borne sodium hydride (2.8 g) was added little by little to a solution of 2-(3-methyl-2-pyridyl)-1,3-propylene glycol (10.0 g) and p-fluoronitrobenzene (8.45 g) in dimethylformamide (100 ml) under ice-cooling with stirring. After stirring under ice-cooling for 1 hour, the reaction solution was poured in ice-cold water, and the aqueous mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and freed of the solvent by distillation, and the residue was chromatographed on a silica-gel (200 g) column. Elution was effected with cyclohexane-ethyl acetate (3:1, V/V) to give 4-[3-hydroxy-2-(3-methyl-2-pyridyl)propoxy]nitrobenzene in the form of crystals. Yield of 9.6 g. Recrystallization from ethyl acetatehexane produced colorless prisms. m.p. 135°-136° C.

reactant | sodium hydride | 2.8 g | [H-].[Na+]
reactant | 2-(3-methyl-2-pyridyl)-1,3-propylene glycol | 10.0 g | CC=1C(=NC=CC1)C(CO)CO | C9H13NO2
reactant | p-fluoronitrobenzene | 8.45 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-[3-hydroxy-2-(3-methyl-2-pyridyl)propoxy]nitrobenzene | OCC(COC1=CC=C(C=C1)[N+](=O)[O-])C1=NC=CC=C1C | C15H16N2O4
